US05695972
selecting a microorganism belonging to Escherichia coli which forms colonies more than 0.6 mm in diameter when cultured in 3 to 7 days at 30° to 35° C. when grown on minimum agar medium containing 0.5 wt. % glucose, 0.02 wt. % L-homoserine, 0.3 wt. % potassium dihydrogen phosphate, 0.6 wt. % disodium hydrogen phosphate, 0.01 wt. % magnesium sulfate, 20 mg/liter calcium chloride, and 2 wt. % agar (pH 7.2) supplemented with 20 mg/liter auxotrophic material and produces L-isoleucine in a nutrient medium;

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | L-homoserine | N[C@@H](CCO)C(=O)O | C4H9NO3
reactant | potassium dihydrogen phosphate | P(=O)(O)(O)[O-].[K+]
reactant | disodium hydrogen phosphate | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
product | L-isoleucine | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
